US03974161
Ethyl 7-Methoxy-8-Hydroxypyrimido[4,5-b]Quinolin-4(3H)One-2-Carboxylate
A solution of ethyl 7-methoxy-8-benzyloxypyrimido[4,5-b]quinolin-4(3H)one-2-carboxylate (198 mg., 0.488 mmole) in trifluoroacetic acid (4 ml.) is stirred at room temperature for 8 days. Ether (15 ml.) is added and the yellow precipitate which forms separated by filtration. It is taken up in chloroform and the solution filtered through diatomaceous earth to remove a small amount of insoluble material. The filtrate is decolorized with charcoal and concentrated under reduced pressure to small volume. The solid which forms is filtered and dried; 9 mg., 6% yield; m.p. 265°-266°C. (dec.).

reactant | ethyl 7-methoxy-8-benzyloxypyrimido[4,5-b]quinolin-4(3H)one-2-carboxylate | 0.488 mmole, 198 mg | COC=1C=C2C=C3C(=NC2=CC1OCC1=CC=CC=C1)N=C(NC3=O)C(=O)OCC | C22H19N3O5
reactant | Ether | 15 ml | CCOCC | C4H10O
solvent | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
product | Ethyl 7-Methoxy-8-Hydroxypyrimido[4,5-b]Quinolin-4(3H)One-2-Carboxylate | 6% yield | COC=1C=C2C=C3C(=NC2=CC1O)N=C(NC3=O)C(=O)OCC | C15H13N3O5
